data/mechanism_extracts/ACSCatal/10.1021_acscatal.0c01413.json
{"doi": "10.1021_acscatal.0c01413", "journal": "ACSCatal", "is_review": false, "rxn_class_summary": "Enantioselective visible-light [2+2] photocycloaddition between aryl enones and alkenes, organocatalyzed by a chiral primary-secondary diamine via an intramolecular charge-transfer iminium ion intermediate", "mechanism_family": ["photoredox_combined", "biradical", "cation_initiated", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "Iminium ion A-1 (condensation of enone 1a with diamine catalyst 3d, with pendant naphthyl donor)", "smiles": null, "role": "reactive"}, {"name": "Singlet charge-transfer excited state B-2 (CT^S, S1, naphthyl->iminium SET)", "smiles": null, "role": "transient"}, {"name": "Singlet iminium-localized excited state B-1 (LE^S, S2), reactive species for [2+2]", "smiles": null, "role": "reactive"}, {"name": "Singlet 1,4-biradical C-1 (tertiary radical at iminium C, primary radical on alkene-derived carbon)", "smiles": null, "role": "transient"}, {"name": "Alternative biradical C-1' (primary radical at iminium side, tertiary on alkene side) from CT excitation, 20.6 kcal/mol higher in energy", "smiles": null, "role": "off_pathway"}, {"name": "Cyclobutyl iminium D-1", "smiles": null, "role": "transient"}, {"name": "Triplet iminium-localized excited state B-1^T (accessed only with Ru(bpy)3 sensitization via triplet energy transfer)", "smiles": null, "role": "reactive"}, {"name": "Triplet 1,4-biradical (longer-lived, gives higher dr after ISC)", "smiles": null, "role": "transient"}, {"name": "Cyclobutane product 4a", "smiles": "O=C(C)C1C(C)(C(=C)C)CC1c1ccccc1", "role": "reactive"}], "electron_flow": "Acid-promoted condensation of diamine 3d with enone gives iminium A-1 bearing a tethered naphthyl donor; visible light populates a CT excited state B-2 (naphthyl->iminium SET) that thermally equilibrates with the iminium-localized singlet B-1, which adds to alkene 2a to form 1,4-biradical C-1, ring-closes to cyclobutyl iminium D-1, and hydrolyzes to release cyclobutane 4 and regenerate catalyst. With Ru(bpy)3Cl2, an external triplet energy transfer to the iminium gives B-1^T and a longer-lived triplet biradical, raising dr.", "rate_determining_step": null, "probe_reagents": [{"name": "Ru(bpy)3Cl2·6H2O (triplet photosensitizer)", "smiles": null, "purpose": "other", "observation": "Switches mechanism to triplet pathway; dr increases from 2:1 (singlet, direct CT excitation) to 5:1 for 4k, while er remains comparable, supporting iminium intermediacy in both regimes"}, {"name": "Catalysts 3g/3h lacking naphthyl donor", "smiles": null, "purpose": "other", "observation": "No bathochromic CT absorption band; negligible conversion under 456 nm without sensitizer, confirming the intramolecular CT transition is responsible for visible-light photoactivity"}, {"name": "Achiral diamine 3g + Ru(bpy)3Cl2 control (Scheme 1a)", "smiles": null, "purpose": "intermediate_trap", "observation": "Triplet sensitization gives 71% conversion of 4a (vs 10% without Ru), demonstrating that the iminium can be triplet-sensitized; racemic since catalyst is achiral"}, {"name": "Bulky achiral diamine 3i + Ru(bpy)3Cl2 control (Scheme 1b)", "smiles": null, "purpose": "intermediate_trap", "observation": "36% conversion to racemic 4a vs 5% without Ru, again supporting triplet-sensitized iminium reactivity"}, {"name": "(Z)-4-phenyl-3-buten-2-one", "smiles": "O=C(C)/C=C\\c1ccccc1", "purpose": "isotope_label", "observation": "Gives same cyclobutane 4a (84%, 80:20 er) via organocatalyzed Z->E isomerization, consistent with iminium intermediate"}, {"name": "X-ray of hydrazone 5a derived from 4a", "smiles": null, "purpose": "other", "observation": "Establishes absolute configuration of cyclobutane product"}, {"name": "O2 (air) tolerance test", "smiles": "O=O", "purpose": "radical_trap", "observation": "Air did not inhibit the reaction; full conversion under air, arguing against a long-lived freely diffusing triplet/radical in the CT pathway"}], "evidence_types_used": ["UV_vis", "DFT", "stoichiometric_intermediate", "isolation_of_intermediate", "intermediate_trap_other", "crossover"], "evidence_strength": "strong", "notes": "Two excited-state pathways are considered: (favored) singlet iminium-localized excited state B-1 (LE^S, S2) reacting via a singlet biradical C-1 with concerted-or-stepwise [2+2], and an alternative CT excited state B-2 (S1) that is discarded as unproductive because (i) its derived biradical C-1' is 20.6 kcal/mol less stable than C-1 and would give wrong regiochemistry, and (ii) ISC from singlet iminium to triplet is slow by El-Sayed's rule. The CT state's role is to provide the visible-light absorption band that then funnels via thermal S1<->S2 equilibrium into the reactive LE singlet. With external Ru(bpy)3Cl2 (ET=46 kcal/mol matching the singlet-triplet gap of A-1), a parallel triplet-energy-transfer pathway operates, giving a longer-lived triplet biradical and higher dr (5:1 vs 2:1 for 4k). Solvent polarity tunes the CT^S/LE^S equilibrium. TDDFT (CAM-B3LYP/6-31G*) on M06-2X/6-311G** structures supports HOMO(naphthyl)->LUMO(iminium) CT assignment; no pi-stacking between donor and acceptor is required."}
